US08193221B2
Preparation of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-prop-2-ynyloxy-benzamidine (Compound No. A2 of Table A)
Caesium carbonate (0.122 g) was added to a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-benzamidine (0.1 g) (Example P1) in N,N-dimethylformamide (8 ml). Propargyl bromide (80% w/v in toluene) (0.028 ml) was added. The reaction mixture was stirred at ambient temperature for 20 hours. The reaction mixture was diluted with water and the mixture extracted twice with ethyl acetate. The combined organic phases were washed with water, dried over sodium sulfate, and concentrated. The residue was purified by preparative HPLC to give Compound No. A2 of Table A (0.054 g) as a yellow oil.

reactant | Caesium carbonate | 0.122 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-benzamidine | 0.1 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=N)NO)C=C1)C)C(F)(F)F | C18H14Cl2F3N3O2
reactant | Propargyl bromide | 0.028 ml | C(C#C)Br | C3H3Br
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-N-prop-2-ynyloxy-benzamidine | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=N)NOCC#C)C=C1)C)C(F)(F)F | C21H16Cl2F3N3O2
